US07276603B2
8-{4-[2-(5-methoxy-1-benzofuran-3-yl)ethyl]-1-piperazinyl}-6-isopropyl-quinoline was prepared by generally following the procedure outlined in example 21, step 6, starting from 2-(5-methoxy-1-benzofuran-3-yl)ethyl iodide (301 mg, 1 mmol) and 6-isopropyl-8-piperazino quinoline (255 mg, 1 mmol). The product was purified by silica-gel column chromatography by eluting it initially with 80% ethyl acetate:hexane and then with 5% methanol:ethyl acetate, yielding a brown oil. Yield: 90 mg (20%); (M+H): 430; 1HNMR (400 MHz, CDCl3): δ 8.83˜8.12 (dd, J1=1.8 Hz, J2=1.8 Hz, 1H), 8.08˜804 (dd,J1=1.8 Hz, J2=1.8 Hz, 1H), 7.75˜6.70 (m, 7H), 3.84 (s, 3H), 3.50˜2.86 (m, 12H), 2.90˜3.01 (m, 1H), 1.34˜1.33 (d, 7 Hz, 6H).

reactant | 2-(5-methoxy-1-benzofuran-3-yl)ethyl iodide | 1 mmol, 301 mg | COC=1C=CC2=C(C(=CO2)CCI)C1 | C11H11IO2
reactant | 6-isopropyl-8-piperazino quinoline | 1 mmol, 255 mg | C(C)(C)C=1C=C2C=CC=NC2=C(C1)N1CCNCC1 | C16H21N3
product | 8-{4-[2-(5-methoxy-1-benzofuran-3-yl)ethyl]-1-piperazinyl}-6-isopropyl-quinoline | COC=1C=CC2=C(C(=CO2)CCN2CCN(CC2)C=2C=C(C=C3C=CC=NC23)C(C)C)C1 | C27H31N3O2
